US08389442B2
Step c. Synthesis of N*2′*-(3-Chloro-phenyl)-N*2*-(2-methoxy-1-methyl-ethyl)-[4,4′]bipyridinyl-2,2′-diamine
Pd(OAc)2 (8 mg) and BINAP (16 mg) were suspended in toluene (10 ml) and stirred under argon for 10 mins, then (2′-Chloro-[4,4′]bipyridinyl-2-yl)-(2-methoxy-1-methyl-ethyl)-amine (90 mg), 3-chloroaniline (124 mg) and potassium carbonate (890 mg) were added. The mixture was stirred at 110° C. for 5 hours then cooled to room temp, poured onto water and extracted with ethyl acetate, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by passing the crude mixture down Kieselgel using 1:99 THF:CH2Cl2 as the eluent.

reactant | BINAP | 16 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | (2′-Chloro-[4,4′]bipyridinyl-2-yl)-(2-methoxy-1-methyl-ethyl)-amine | 90 mg | ClC1=NC=CC(=C1)C1=CC(=NC=C1)NC(COC)C | C14H16ClN3O
reactant | 3-chloroaniline | 124 mg | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | potassium carbonate | 890 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N*2′*-(3-Chloro-phenyl)-N*2*-(2-methoxy-1-methyl-ethyl)-[4,4′]bipyridinyl-2,2′-diamine | ClC=1C=C(C=CC1)NC1=NC=CC(=C1)C1=CC(=NC=C1)NC(COC)C | C20H21ClN4O
